US05708164
2-Bromo-(25R)-5α-spirost-14-ene-3,12-dione (II)
500 mg of (25R)-5a-spirost-14-ene-3,12-dione is dissolved in 15 ml of tetrahydrofuran and mixed with 453 mg (1.1 eq) of pyridinium bromide-perbromide, dissolved in 25 ml of tetrahydrofuran. After two and one half hours of stirring at room temperature, the reaction is arrested by adding 20 ml of water and the mixture is extracted with dichloromethane. The organic phase is washed with sodium chloride solution, dried on magnesium sulfate, the solvent is removed and the residue is chromatographed with petroleum ether/ethyl acetate (4:1) on silica gel. The combined fractions are concentrated by evaporation and stirred overnight in 10 ml of methanol. After filtration and evaporation of the solvent, there is obtained:

reactant | (25R)-5a-spirost-14-ene-3,12-dione | 500 mg | C[C@H]1[C@H]2[C@H](C=C3[C@@H]4CC[C@H]5CC(CC[C@]5(C)[C@H]4CC([C@]23C)=O)=O)O[C@]12CC[C@@H](C)CO2 | C27H38O4
reactant | pyridinium bromide | 453 mg, 1.1 eq | [Br-].[NH+]1=CC=CC=C1
reactant | water | 20 ml | O | H2O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | 2-Bromo-(25R)-5α-spirost-14-ene-3,12-dione | BrC1C(C[C@@H]2CC[C@H]3C4=C[C@H]5[C@H]([C@H](C)[C@]6(O5)CC[C@@H](C)CO6)[C@]4(C(C[C@@H]3[C@]2(C1)C)=O)C)=O | C27H37BrO4
